US05175344
Hydrolysis of E-2-formylamino-4-ethyl-5-dimethylphosphono-3-pentenoic acid ethyl ester in a manner analogous to that described in Example 11 yields E-2-amino-4-ethyl-5-phosphono-3-pentenoic acid, m.p. 176° (H2O).

reactant | E-2-formylamino-4-ethyl-5-dimethylphosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(OC)OC)/CC)NC=O)=O | C12H22NO6P
solvent | H2O | O | H2O
product | E-2-amino-4-ethyl-5-phosphono-3-pentenoic acid | NC(C(=O)O)\C=C(\CP(=O)(O)O)/CC | C7H14NO5P
